### PR TITLE
Add basic formalisation of the free particle in classical mechanics

### PR DESCRIPTION
**Pull request by Pranav-Magdum**
This PR adds a simple formalisation of the free particle: a particle of mass m with no external forces acting on it.

The goal is to capture the standard first-step reasoning from classical mechanics in Lean. Starting from Newton’s second law (m * q'' = 0), we show:

acceleration is zero,
velocity is constant,
kinetic energy is conserved.

The development is intentionally minimal and 1-dimensional (ℝ → ℝ) to keep things easy to follow. The harder analysis step (showing zero acceleration implies constant velocity) is currently isolated in a lemma, so the overall structure is clear and can be extended later.

### CODE REVIEW

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
+/-
+Copyright (c) 2025 Pranav Magdum. All rights reserved.
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: 2026

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+  - D.1. Kinetic energy
+  - D.2. Energy conservation
+
+## iv. References
+
+- Landau & Lifshitz, *Mechanics*
+- Goldstein, *Classical Mechanics*
+
+-/
+import Mathlib.Data.Real.Basic
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: Should go before the doc-string. Also we are now using the module system (see another Physlib file as an example of how to import within the module system).

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+import Mathlib.Analysis.Calculus.Deriv.Basic
+import Physlib.Meta.TODO.Basic
+namespace ClassicalMechanics
+
+TODO "Make the documantation more descriptive"
+TODO "Prove momentum conservation"
+TODO "Prove the velocity_const_of_zero_acc lemma"
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: Could make these more descriptive.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+
+abbrev Time := ℝ
+abbrev Trajectory := Time → ℝ
+
+noncomputable
+def velocity (s : FreeParticle) (q : Trajectory) (t : Time) : ℝ :=
+  deriv q t
+
+noncomputable
+def kinetic_energy (s : FreeParticle) (q : Trajectory) (t : Time) : ℝ :=
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: `kineticEnergy` (no underscores in names of definitions)

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+TODO "Prove momentum conservation"
+TODO "Prove the velocity_const_of_zero_acc lemma"
+
+structure FreeParticle where
+  mass : ℝ
+  mass_pos : 0 < mass
+
+namespace FreeParticle
+
+abbrev Time := ℝ
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: I would get this from `SpaceTime.Time.Basic` rather than defining it again.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+import Mathlib.Data.Real.Basic
+import Mathlib.Analysis.Calculus.Deriv.Basic
+import Physlib.Meta.TODO.Basic
+namespace ClassicalMechanics
+
+TODO "Make the documantation more descriptive"
+TODO "Prove momentum conservation"
+TODO "Prove the velocity_const_of_zero_acc lemma"
+
+structure FreeParticle where
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean:75]: This (and all definitions will need doc-strings).

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+  (q : Trajectory)
+  (h : ∀ t, s.NewtonsSecondLaw q t) :
+  ∀ t, deriv (deriv q) t = 0 := by
+  intro t
+  have h₀ : s.mass ≠ 0 := ne_of_gt s.mass_pos
+  have h1 := h t
+  exact (mul_eq_zero.mp h1).resolve_left h₀
+
+-- Step 2: velocity is constant 
+lemma velocity_const_of_zero_acc
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: Since this is not yet proved it will need the `@[sorryful]` attribute. May need an import to get this to work.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,125 @@
...
+  (q : ℝ → ℝ)
+  (h : ∀ t, deriv (deriv q) t = 0)
+  (hcont : Continuous (deriv q)) :
+  ∃ v₀, ∀ t, deriv q t = v₀ := by
+  -- this is a standard analysis result (can be proved later)
+  sorry
+
+-- Step 3: Energy conservation
+theorem Energy_is_Conserved
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: `kineticEnergy_conserved` would be a better name I think.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+  (hcont : Continuous (deriv q)) :
+  ∃ E, ∀ t, s.kinetic_energy q t = E := by
+
+  -- get q'' = 0
+  have h_acc : ∀ t, deriv (deriv q) t = 0 :=
+    accel_zero s q h
+
+  -- get constant velocity
+  rcases velocity_const_of_zero_acc q h_acc hcont with ⟨v₀, hv⟩
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean:141]: Could we remove these new lines in the proof?

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,125 @@
...
+- C. What zero acceleration implies
+  - C.1. Constant velocity
+- D. Energy
+  - D.1. Kinetic energy
+  - D.2. Energy conservation
+
+## iv. References
+
+- Landau & Lifshitz, *Mechanics*
+- Goldstein, *Classical Mechanics*
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: Could we either 1) remove these references, or 2) Add specific page numbers.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,125 @@
...
+
+## i. Overview
+
+The free particle is one of the simplest systems in classical mechanics: a particle of mass `m`
+moving with no external forces acting on it. Physically, this means the particle just keeps moving
+at constant velocity.
+
+In this file, we work in a simple 1D coordinate system where position and velocity are functions
+of time with values in `ℝ`. This keeps things easy to reason about. A more complete treatment would
+use manifolds and tangent bundles, but that’s overkill here.
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: would remove the `but that's overkill here`.

**Review by jstoobysmith — COMMENTED** [review]
Some comments.

**Review by Pranav-Magdum — COMMENTED** [review]
I have made the changes according to the comments

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,182 @@
...
+A free particle is a mechanical system evolving in the absence of
+external forces. The dynamics are therefore entirely determined by
+Newton's second law with zero force.
+
+The only parameter of the system is the particle mass. The assumption
+that the mass is strictly positive is physically natural and is used
+throughout the development when simplifying the equation of motion.
+-/
+structure FreeParticle where
+  mass : ℝ
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean:82]: This `mass` needs a doc-string too.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,182 @@
...
+  mass_pos : 0 < mass
+
+namespace FreeParticle
+/-- 
+A trajectory is a time-dependent position function describing the motion
+of the particle in one spatial dimension. Defining the trajectory.
+-/
+abbrev Trajectory := Time → ℝ
+/--
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: Can we insert new-lines between declerations.

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,182 @@
...
+  (1 / 2) * s.mass * (s.velocity q t)^2
+
+/-- 
+Newton's second law for the free particle.
+
+Since no external forces act on the particle, Newton's second law
+reduces to the equation `m q'' = 0`, expressing that the acceleration
+vanishes identically.
+-/
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: remove this new line

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,182 @@
...
+More precisely, if the second derivative of the trajectory is zero
+for all times, then there exists a constant `v₀` such that the
+velocity is equal to `v₀` at every time.
+
+The continuity assumption on `deriv q` is included to apply standard
+results from real analysis relating vanishing derivatives to constant
+functions.
+-/
+[@sorryful]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]:
```suggestion
@[sorryful]
```

**Review by Pranav-Magdum — COMMENTED** [review]
made the suggested changes

**Comment by jstoobysmith** [comment]
@Pranav-Magdum Thanks for fixing my comments. The linters of this are still not passing, would you mind fixing the errors there. It is possible to run the linters locally (discussed here: https://github.com/leanprover-community/physlib/blob/master/scripts/README.md), but you can also rely on the GitHub workflows.

**Review by Pranav-Magdum — COMMENTED** [review]
reformatting

File: Physlib/ClassicalMechanics/FreeParticle/Basic.lean [hunk 16]
```diff
@@ -124,14 +124,14 @@ Since the particle mass is strictly positive, the equation
...
-  have h1 := h t
-  exact (mul_eq_zero.mp h1).resolve_left h₀
+    (s : FreeParticle)
+    (q : Trajectory)
+    (h : ∀ t, s.NewtonsSecondLaw q t) :
+    ∀ t, deriv (deriv q) t = 0 := by
+    intro t
+    have h₀ : s.mass ≠ 0 := ne_of_gt s.mass_pos
+    have h1 := h t
+    exact (mul_eq_zero.mp h1).resolve_left h₀
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: These proofs should only be indented by two spaces not four. Only the theorem statement (and definition types) should be indented by four, if that makes sense. I'm happy to make this change if you would like. This is an annoying 'style' thing, which just helps with the maintainability of the code.

Comment (Pranav-Magdum) [reply Physlib/ClassicalMechanics/FreeParticle/Basic.lean]: sure, if you can make the change.

**Comment by jstoobysmith** [comment]
@Pranav-Magdum I made some changes, I think this should pass the linters now - if it does, I will approve and merge. Many thanks for this PR! Hopefully this is the first of many :).

**Review by jstoobysmith — APPROVED** [review]
Approved.
